US09169246B2
Step 21.2. 7-[2-(4-methyl-1,4-diazepan-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with 7-[2-(4-methyl-1,4-diazepan-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-[2-(4-methyl-1,4-diazepan-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one, in the form of a white powder (2 hydrochloride, 5.5 H2O; yield: 28%).

reactant | 7-[2-(4-methyl-1,4-diazepan-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | CN1CCN(CCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C28H31F3N6O2
reactant | 7-[2-(4-methyl-1,4-diazepan-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | CN1CCN(CCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C28H33F3N6O2
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | 7-[2-(4-methyl-1,4-diazepan-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield: 28% | Cl.CN1CCN(CCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C23H23F3N6O.ClH/c1-30-8-3-9-31(11-10-30)21-16(4-2-7-27-21)15-5-6-17-19(12-15)32(14-23(24,25)26)22(33)18-13-28-29-20(17)18;/h2,4-7,12-13H,3,8-11,14H2,1H3,(H,28,29);1H
